US07947738B2
(19-d) Tert-butyl(±)-[(1R,5R)-3-(hydroxymethyl)bicyclo[3.2.0]hept-3-en-6-ylidene]acetate
Tetrabutyl ammonium fluoride (1.0 M tetrahydrofuran solution, 8.69 mL, 8.69 mmol) was added to a tetrahydrofuran solution (15 mL) of tert-butyl(±)-[(1R,5R)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)bicyclo[3.2.0]hept-3-en-6-ylidene]acetate (2.03 g, 5.79 mmol), and the mixture was stirred at room temperature for 2 hours. To the reaction solution, water was added, followed by extraction with ethyl acetate. Then, the organic layer was washed with water and saturated saline and dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (1.29 g, 94%).

reactant | Tetrabutyl ammonium fluoride | 8.69 mmol, 1.0 M, 8.69 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | tert-butyl(±)-[(1R,5R)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)bicyclo[3.2.0]hept-3-en-6-ylidene]acetate | 5.79 mmol, 2.03 g | [Si](C)(C)(C(C)(C)C)OCC=1C[C@H]2CC([C@H]2C1)=CC(=O)OC(C)(C)C | C20H34O3Si
solvent | water | O | H2O
product | Tert-butyl(±)-[(1R,5R)-3-(hydroxymethyl)bicyclo[3.2.0]hept-3-en-6-ylidene]acetate | OCC=1C[C@H]2CC([C@H]2C1)=CC(=O)OC(C)(C)C | C14H20O3
